US07008957B2
10h) 2-Trimethylsilanylethyl 4-((3R,6S,7aS)-6-tert-butoxycarbonylamino-3-cyano-5-oxohexahydropyrrolo[2,1-b]thiazol-6-yl)piperidine-1-carboxylate
153 mg of methyl (3R,6S,7aS)-6-tert-butoxycarbonylamino-5-oxo-6-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-yl]hexahydropyrrolo[2,1-b]thiazole-3-carboxylate were dissolved at 0° C. in 30 ml of ammonia-saturated methanol. The mixture was allowed to reach room temperature over the course of 5 h, and then the solvents were removed in vacuo. The residue was taken up in 5 ml of THF, and 100 μl of triethylamine and 60 μl of trifluoroacetic anhydride were successively added. The mixture was stirred at room temperature for 2 h. It was then partitioned between 60 ml of 0.5 M HCl and 60 ml of ethyl acetate. The aqueous phase was extracted twice with 20 ml of ethyl acetate each time, and the combined organic phases were washed once with 30 ml of saturated sodium bicarbonate solution. After drying with MgSO4, the solvents were removed in vacuo. The residue was chromatographed on silica gel.

reactant | methyl (3R,6S,7aS)-6-tert-butoxycarbonylamino-5-oxo-6-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-yl]hexahydropyrrolo[2,1-b]thiazole-3-carboxylate | 153 mg | C(C)(C)(C)OC(=O)N[C@@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)OC)C1CCN(CC1)C(=O)OCC[Si](C)(C)C | C24H41N3O7SSi
reactant | ammonia | 30 ml | N | H3N
product | 2-Trimethylsilanylethyl 4-((3R,6S,7aS)-6-tert-butoxycarbonylamino-3-cyano-5-oxohexahydropyrrolo[2,1-b]thiazol-6-yl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@]1(C[C@@H]2SC[C@H](N2C1=O)C#N)C1CCN(CC1)C(=O)OCC[Si](C)(C)C | C23H38N4O5SSi
